US06747032B2
Step A: 3-(2-Hydroxyethyl)-2-methyl-7-(2-thienyl)-4H-pyrido[1,2-a]pyrimidin-4-one
In a round-bottom flask under a current of argon, mix 5 g of 7-bromo-3-(2-hydroxyethyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one, 6.2 ml of tributyl-thiophen-2-yl-stannane, 1 g of tetrakis(triphenylphosphine) palladium and 250 ml of N-methylpyrrolidone. Heat the solution at 130° C. for 2 hours and then evaporate off the solvent in vacuo; take up the residue in 200 ml of dichloromethane, wash the solution with 10% potassium fluoride solution, filter, separate off the organic phase and wash it with water. After drying over magnesium sulphate and evaporation, the residue obtained is purified by chromatography on silica gel using a mixture of dichloromethane/methanol: 95/5 as eluant.

reactant | 7-bromo-3-(2-hydroxyethyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 5 g | BrC=1C=CC=2N(C(C(=C(N2)C)CCO)=O)C1 | C11H11BrN2O2
reactant | tributyl-thiophen-2-yl-stannane | 6.2 ml | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine) palladium | 1 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | N-methylpyrrolidone | 250 ml | CN1C(CCC1)=O | C5H9NO
product | 3-(2-Hydroxyethyl)-2-methyl-7-(2-thienyl)-4H-pyrido[1,2-a]pyrimidin-4-one | OCCC1=C(N=C2N(C1=O)C=C(C=C2)C=2SC=CC2)C | C15H14N2O2S
